### PR TITLE
Verify flattening abstract stack

### PR DESCRIPTION
**Pull request by 0xMushow**
### In progress
- `flatten_push_n`  :
  This proof involves modulo operations and heavy use of monadic constructs like:  
  - `letS!`  
  - `liftS!`  
  - `readS!`  
  - `writeS!`
 
 These make it tricky to disentangle — (left a comment on the difficult stage).

### Progress Summary  
- [x] `flatten_pop_eq_n`  
- [x] `flatten_push_n` (Work in Progress)  
- [x] `flatten_pop_any_n`

### CODE REVIEW

File: CoqOfRust/move_sui/proofs/move_abstract_stack/lib.v [hunk 1]
```diff
@@ -250,13 +250,26 @@ Module AbstractStack.
     }
   Qed.
 
-  Lemma flatten_push_n {A : Set} `{Eq.Trait A} (item : A) (n : Z) (stack : AbstractStack.t A) :
+  Lemma flatten_push_n {A : Set} `{Eq.Trait A} (item : A) (n : Z) (stack : AbstractStack.t A) 
+  (H_n : n >= 0) :
```
Comment (clarus) [inline CoqOfRust/move_sui/proofs/move_abstract_stack/lib.v:254]:
```suggestion
      (H_n : n >= 0) :
```

File: CoqOfRust/move_sui/proofs/move_abstract_stack/lib.v [hunk 2]
```diff
@@ -268,18 +281,37 @@ Module AbstractStack.
   Proof.
     unfold AbstractStack.push.
     pose proof (flatten_push_n item 1 stack) as H_push_n.
-    apply H_push_n.
+    apply H_push_n; lia.
   Qed.
 
-  Lemma flatten_pop_eq_n {A : Set} `{Eq.Trait A} (n : Z) (stack : AbstractStack.t A) :
+  Lemma flatten_pop_eq_n {A : Set} `{Eq.Trait A} (n : Z) (stack : AbstractStack.t A) 
+  (H_n : n >= 0) :
```
Comment (clarus) [inline CoqOfRust/move_sui/proofs/move_abstract_stack/lib.v:288]:
```suggestion
      (H_n : n >= 0) :
```

File: CoqOfRust/move_sui/proofs/move_abstract_stack/lib.v [hunk 3]
```diff
@@ -290,10 +322,11 @@ Module AbstractStack.
   Proof.
     unfold AbstractStack.pop.
     pose proof (flatten_pop_eq_n 1 stack) as H_pop_eq_n.
-    apply H_pop_eq_n.
+    apply H_pop_eq_n; lia.
   Qed.
 
-  Lemma flatten_pop_any_n {A : Set} `{Eq.Trait A} (n : Z) (stack : AbstractStack.t A) :
+  Lemma flatten_pop_any_n {A : Set} `{Eq.Trait A} (n : Z) (stack : AbstractStack.t A)
+  (H_n : n >= 0) :
```
Comment (clarus) [inline CoqOfRust/move_sui/proofs/move_abstract_stack/lib.v:329]:
```suggestion
      (H_n : n >= 0) :
```
